US04962017
Synthesis of 4,4-Dimethyl-2-pentynoic acid
552 g of sodium hydroxide was dissolved in 3.0 liters of water and ice was added thereto to adjust the temperature to 5° C. or lower. Next, while stirring, dibromo-3-t-butyl-5-pyrazolidone was added thereto little by little while maintaining the temperature at 5° C. or lower. If the temperature would rise, ice was added, and acetonitrile was added in order to prevent foaming. After the completion of the reaction, 6 N hydrochloric acid was added to make the reaction solution acidic, and then the solution was subjected to extraction twice with ethyl acetate.

reactant | sodium hydroxide | 552 g | [OH-].[Na+]
reactant | dibromo-3-t-butyl-5-pyrazolidone | BrC1(C(NNC1=O)C(C)(C)C)Br | C7H12Br2N2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 3.0 liters | O | H2O
product | 4,4-Dimethyl-2-pentynoic acid | CC(C#CC(=O)O)(C)C | C7H10O2
